US07956070B2
Step 4: 2-Oxo-4-(2,2,2-trifluoroethyl)-2,3-dihydro-1,3-thiazole-5-carboxylic acid
Benzyl 2-oxo-4-(2,2,2-trifluoroethyl)-2,3-dihydro-1,3-thiazole-5-carboxylate (0.6 g) in ethanol was treated with 5% palladium on carbon and hydrogenated at 3 bar for 8 days. After filtration, the solvent was evaporated to yield the title compound as a colourless oil (0.15 g).

reactant | Benzyl 2-oxo-4-(2,2,2-trifluoroethyl)-2,3-dihydro-1,3-thiazole-5-carboxylate | 0.6 g | O=C1SC(=C(N1)CC(F)(F)F)C(=O)OCC1=CC=CC=C1 | C13H10F3NO3S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Oxo-4-(2,2,2-trifluoroethyl)-2,3-dihydro-1,3-thiazole-5-carboxylic acid | 0.15 g | O=C1SC(=C(N1)CC(F)(F)F)C(=O)O | C6H4F3NO3S
